US06479536B1
2-[2,2,4,6,7-Pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]isoindoline
By using 2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]-1H-isoindole-1,3(2H)-dione, the title compound was synthesized according to Example 2a. Yield: 46%. Melting point: 141-143° C. (Hexane)

reactant | 2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]-1H-isoindole-1,3(2H)-dione | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N2C(C1=CC=CC=C1C2=O)=O)C)C | C28H27NO3
solvent | Hexane | CCCCCC | C6H14
product | 2-[2,2,4,6,7-Pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]isoindoline | Yield: 46% | CC1(OC2=C(C1C1=CC=C(C=C1)C)C(=C(C(=C2C)C)N2CC1=CC=CC=C1C2)C)C | C28H31NO
